US04066635
b. t-butyloxycarbonyl-L-prolyl-β-alanine methyl ester
17.2 g of t-butyloxycarbonyl-L-proline were dissolved in 160 ml of tetrahydrofuran, cooled to -20° C and treated with 11.1 ml of triethylamine and 7.7 ml of chloroformic acid ethyl ester. The resulting suspension was stirred at -20° C for a further 5 minutes and treated with a suspension, pre-cooled to -20° C, prepared from 13.4 g of β-alanine methyl ester hydrochloride and 13.4 ml of triethylamine in 160 ml of a mixture of dimethylformamide and tetrahydrofuran (1:1). The mixture was stirred for 1 hour at a temperature below -10° C and for a further hour at room temperature, filtered and the filtrate concentrated in vacuo. The oily residue was dissolved in 200 ml of ethyl acetate and washed three times, each time with 5% potassium hydrogen sulphate solution, water, 5% sodium hydrogen carbonate solution and water, and dried over sodium sulphate. The organic phase was concentrated in vacuo and the oily residue crystallised from ether/petroleum ether. Yield: 19.2 g; melting point 70° C; [α]D25 = -39.2° (c = 1 in dimethylformamide).

reactant | t-butyloxycarbonyl-L-proline | 17.2 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | triethylamine | 11.1 ml | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid ethyl ester | 7.7 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | β-alanine methyl ester hydrochloride | 13.4 g | Cl.COC(CCN)=O
reactant | triethylamine | 13.4 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | t-butyloxycarbonyl-L-prolyl-β-alanine methyl ester | COC(CCNC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O)=O | C14H24N2O5
